US05547958
N-(6-n-Propyl-2-vinyl-8alpha-ergolinyl)-formamide
1.1 g of 2-morpholinomethyl-6-n-propyl-8alpha-ergolinylamine (3 mmol) is formylated as described in example 4, then dissolved in 50 ml of tetrahydrofuran and 1 ml of triethylamine, cooled to -40° C. and mixed with a solution of 0.5 ml of tert-butyl hypochlorite in 10 ml of tetrahydrofuran. After 30 minutes stirring, the batch is poured on ice, made alkaline with ammonia and extracted with dichloromethane. The organic phases are dried and concentrated by evaporation. The residue is dissolved in 40 ml of tetrahydrofuran and added to a Wittig reagent, which was prepared from 6 g of methyl triphenylphosphonium bromide and 2 g of potassium tert-butylate in 70 ml of tetrahydrofuran by stirring 15 minutes at -78° C. It is allowed to react for 1 hour at -78° C., then heated slowly to -40° C. and stirred for 2 hours at -40° C. Then it is mixed with hydrochloric acid solution, extracted with ethyl acetate and the organic phases dried and concentrated by evaporation. The residue is chromatographed on silica gel with dichloromethane/methanol and crystallized, yield 35%.

reactant | 2-morpholinomethyl-6-n-propyl-8alpha-ergolinylamine | 3 mmol, 1.1 g | O1CCN(CC1)CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)N)CCC | C22H32N4O
reactant | tert-butyl hypochlorite | 0.5 ml | ClOC(C)(C)C | C4H9ClO
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(6-n-Propyl-2-vinyl-8alpha-ergolinyl)-formamide | yield 35% | C(CC)N1C[C@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C=C)NC=O | C20H25N3O
